US05952331
1-(4,7-difluoronaphth-1-yl)-4-methylpentane-1,3-dione (0.114 g, 0.5 mmol) was combined with guanidine carbonate (0.180 g, 0.5 mmol) and heated to 150° C. for 6 hours. The reaction was cooled to room temperature and directly purified by column chromatography to give 2-amino-4-(4,7-difluoronaphth-1-yl)-6-isopropylpyrimidine (0.052 g, 34%), m.p. 103-105° C.

reactant | 1-(4,7-difluoronaphth-1-yl)-4-methylpentane-1,3-dione | 0.5 mmol, 0.114 g | FC1=CC=C(C2=CC(=CC=C12)F)C(CC(C(C)C)=O)=O | C16H14F2O2
reactant | guanidine carbonate | 0.5 mmol, 0.180 g | C(O)(O)=O.NC(=N)N
product | 2-amino-4-(4,7-difluoronaphth-1-yl)-6-isopropylpyrimidine | 0.052 g, 34% | NC1=NC(=CC(=N1)C1=CC=C(C2=CC=C(C=C12)F)F)C(C)C | C17H15F2N3
